US08729068B2
A mixture of 2.00 g of 3-(chlorosulfonyl)benzoic acid, 1.37 g of methyl 4-aminobenzoate, and 20 mL of pyridine was stirred at room temperature overnight, and then the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 665 mg of 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid as a pink solid.

reactant | 3-(chlorosulfonyl)benzoic acid | 2.00 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | methyl 4-aminobenzoate | 1.37 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid | 665 mg | COC(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H13NO6S
